US07465815B2
3-(4-Isopropylphenyl)-6,7-dimethyl-1-benzofuran-2 (3H)-one
Using hydroxy(4-isopropylphenyl)acetic acid synthesized in Reference Example 1 and 2,3-dimethylphenol, the title compound was synthesized in the same manner as in Reference Example 2. Yield 44%. Melting point: 58-60° C. (methanol).

reactant | hydroxy(4-isopropylphenyl)acetic acid | OC(C(=O)O)C1=CC=C(C=C1)C(C)C | C11H14O3
reactant | 2,3-dimethylphenol | CC1=C(C=CC=C1C)O | C8H10O
solvent | methanol | CO | CH4O
product | 3-(4-Isopropylphenyl)-6,7-dimethyl-1-benzofuran-2 (3H)-one | Yield 44% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=CC(=C2C)C)=O | C19H20O2
